* G:\My Drive\Graduate Reserach\LTSpice\SC Fibb\AURA\SC_FIB_4_AURA_D.asc
M1 N003 NC_01 N006 N006 NMOS
M2 N006 NC_02 N013 N013 NMOS
M3 N002 NC_03 N003 N003 NMOS
M4 N013 NC_04 N022 N022 NMOS
M5 N022 NC_05 0 0 NMOS
M6 0 NC_06 N024 N024 NMOS
M7 N001 NC_07 N010 N010 NMOS
M8 N010 NC_08 N013 N013 NMOS
M9 N013 NC_09 N018 N018 NMOS
M10 N018 NC_10 N023 N023 NMOS
M11 N002 NC_11 N005 N005 NMOS
M12 N005 NC_12 N013 N013 NMOS
M13 N001 NC_13 N002 N002 NMOS
M14 N013 NC_14 N020 N020 NMOS
M15 N020 NC_15 N024 N024 NMOS
M16 N024 NC_16 N023 N023 NMOS
V1 N008 N016 12
V2 N011 N013 4
V3 N015 0 4
R1 N003 N011 5m
R2 N013 N015 5m
R3 N008 N009 5m
R4 N016 N017 5m
L1 N009 N010 100n
L2 N017 N018 100n
C1 N006 N007 5µ
C2 N021 N022 5µ
C3 N004 N005 2.5µ
C4 N020 N019 2.5µ
C5 N003 N012 2µ
C6 N013 N014 2µ
R5 N007 N002 3m
R6 N004 N001 3m
R7 N024 N021 3m
R8 N023 N019 3m
R9 N012 N013 2m
R10 N014 0 2m
D1 N006 N003 D
D2 N013 N006 D
D3 N003 N002 D
D4 N022 N013 D
D5 0 N022 D
D6 N024 0 D
D7 N010 N001 D
D8 N013 N010 D
D9 N018 N013 D
D10 N023 N018 D
D11 N005 N002 D
D12 N013 N005 D
D13 N002 N001 D
D14 N020 N013 D
D15 N024 N020 D
D16 N023 N024 D
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
